US06777578B2
1-Bromo-2,3-bis(methoxymethyloxy)-4-methoxy-benzene (7c).
To a solution of 1-bromo-2,3-dihydroxy-4-methoxy-benzene (5.0 g) and anhydrous tetrahydrofuran (20 mL) at 0° C. under argon was added diisopropylethylamine (8.0 mL). The solution was stirred for 15 min, methyloxymethyl chloride (3.5 mL) was added, and the reaction mixture stirred for 3 hours. The solution was poured into water (250 mL), extracted with dichloromethane and the solvent removed in vacuo to provide an orange oil. The oil was purified by flash column chromatography (hexane-ethyl acetate, 2:1) to yield a clear oil (6.4 g, 91%): EIMS m/z 308 (M+, 81Br), 306 (M+, 79Br), 232, 230, 45; IR (neat, cm−1) vmax 2963, 2836, 1221, 1159, 1084, 966; 1H NMR δ 7.25 (1H, d, J=9.0 Hz, H5), 6.61 (1H, d, J=9.0 Hz, H4), 5.20 (2H, s, OCH2), 5.13 (2H, s, OCH2), 3.84 (3H, s, OCH3), 3.66 (3H, s, OCH3), 3.59 (3H, s, OCH3); 13C—NMR (75.5 MHZ) δ 153.31, 148.24, 140.05, 127.49, 108.94, 108.73, 99.39, 98.73, 58.14, 57.46, 56.11. Anal. Calcd. For C11H15O5Br: C, 43.02; H, 4.92. Found: C, 42.86; H, 4.93.

reactant | 1-bromo-2,3-dihydroxy-4-methoxy-benzene | 5.0 g | BrC1=C(C(=C(C=C1)OC)O)O | C7H7BrO3
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | diisopropylethylamine | 8.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyloxymethyl chloride | 3.5 mL | COCCl | C2H5ClO
solvent | water | 250 mL | O | H2O
product | 1-Bromo-2,3-bis(methoxymethyloxy)-4-methoxy-benzene | 6.4 g, 91% | BrC1=C(C(=C(C=C1)OC)OCOC)OCOC | C11H15BrO5
